US04435419
3,6-Dimethyl-1-phenyl-3-azabicyclo[3.1.0]hexane hydrochloride
To a stirred solution of N,3-dimethylcyclopropane-1,2-dicarboximide (U.S. Pat. No. 3,166,571, Ex. 2) in benzene is added Vitride® for several minutes. This solution is stirred at ambient temperature for several hours, refluxed for one hour, and then cooled and combined with sodium hydroxide and worked-up and converted to the hydrochloride to give the title product.

reactant | N,3-dimethylcyclopropane-1,2-dicarboximide | CN1C(=O)C2C(C2C)C1=O | C7H9NO2
reactant | Vitride | COCCO[AlH2-]OCCOC.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,6-Dimethyl-1-phenyl-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.CN1CC2(C(C2C1)C)C1=CC=CC=C1 | InChI=1S/C13H17N.ClH/c1-10-12-8-14(2)9-13(10,12)11-6-4-3-5-7-11;/h3-7,10,12H,8-9H2,1-2H3;1H
